US07229986B2
Thionyl chloride (50 ml, 680 mmol) was added dropwise to a solution of (4-hydroxy-3-nitrophenyl)acetic acid (25 g, 127 mmol) obtained in 1) in THF (100 ml) at room temperature, and the mixture was heated under reflux for 2 hours. The reaction solution was concentrated, and the resultant residues were dissolved in chloroform (250 ml) and added dropwise over 1 hour to a solution of dipropylamine (35 ml, 255 mmol) in chloroform (300 ml) under cooling with ice-bath. After this addition, the reaction solution was washed with water and aqueous saturated sodium bicarbonate, and the organic layer was dried over anhydrous sodium sulfate and concentrated. The residues were crystallized from ethyl acetate-hexane, whereby N,N-dipropyl-(4-hydroxy-3-nitrophenyl) acetamide (26.5 g) was obtained as crystals with a mp of 55 to 57° C.

reactant | Thionyl chloride | 680 mmol, 50 ml | S(=O)(Cl)Cl | Cl2OS
reactant | (4-hydroxy-3-nitrophenyl)acetic acid | 127 mmol, 25 g | OC1=C(C=C(C=C1)CC(=O)O)[N+](=O)[O-] | C8H7NO5
reactant | dipropylamine | 255 mmol, 35 ml | C(CC)NCCC | C6H15N
solvent | THF | 100 ml | C1CCOC1 | C4H8O
solvent | chloroform | 300 ml | C(Cl)(Cl)Cl | CHCl3
product | N,N-dipropyl-(4-hydroxy-3-nitrophenyl) acetamide | 26.5 g | C(CC)N(C(CC1=CC(=C(C=C1)O)[N+](=O)[O-])=O)CCC | C14H20N2O4
